US08754226B2
(R)-3-hydroxydihydrofuran-2(3H)-one (2.0 g, 20 mmol) was suspended in Toluene (150 mL) and triphenylphosphine (6.2 g, 24 mmol) and 4-bromo-2-fluoro-5-methylphenol (4.8 g, 24 mmol) were added and cooled to 0° C. The solution was degassed with nitrogen bubble for 10 minutes. Di-tert-butyl diazene-1,2-dicarboxylate (5.4 g, 24 mmol) was dissolved in toluene (40 mL) and added to the reaction over 5 minutes. The reaction was allowed to slowly warm to ambient temperature overnight. The toluene was removed and the oily residue was purified over silica gel (20 to 40% EtOAc in hexanes) to afford (S)-3-(4-bromo-2-fluoro-5-methylphenoxy)dihydrofuran-2(3H)-one (2.9 g, 10 mmol, 51% yield).

reactant | (R)-3-hydroxydihydrofuran-2(3H)-one | 20 mmol, 2.0 g | O[C@H]1C(OCC1)=O | C4H6O3
reactant | triphenylphosphine | 24 mmol, 6.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-bromo-2-fluoro-5-methylphenol | 24 mmol, 4.8 g | BrC1=CC(=C(C=C1C)O)F | C7H6BrFO
reactant | Di-tert-butyl diazene-1,2-dicarboxylate | 24 mmol, 5.4 g | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
solvent | Toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
product | (S)-3-(4-bromo-2-fluoro-5-methylphenoxy)dihydrofuran-2(3H)-one | 10 mmol, 2.9 g, 51% yield | BrC1=CC(=C(O[C@@H]2C(OCC2)=O)C=C1C)F | C11H10BrFO3
